US07091220B2
Dimethyl-[(1-methyl-1H-indol-3-yl)-(3-phenoxy-phenyl)-methyl]-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methyl-1H-indole and (3-phenoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 3-phenoxy-benzaldehyde and dimethylamine.

reactant | 1-methyl-1H-indole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | (3-phenoxy-benzylidene)-dimethylammonium chloride | [Cl-].O(C1=CC=CC=C1)C=1C=C(C=[N+](C)C)C=CC1
reactant | 3-phenoxy-benzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | dimethylamine | CNC | C2H7N
product | Dimethyl-[(1-methyl-1H-indol-3-yl)-(3-phenoxy-phenyl)-methyl]-amine | CN(C(C1=CC(=CC=C1)OC1=CC=CC=C1)C1=CN(C2=CC=CC=C12)C)C | C24H24N2O
